US04464408
Preparation of 2-(2,6-DIMETHYL-1,5-HEPTADIENYL)-4-METHYL-1,3-DITHIOLANE
Into a 100 ml reaction flask equipped with spin bar, reflux condenser, heating mantle and hot plate with magnetic stirring apparatus is placed 0.5 grams para-toluenesulfonic acid, 5.0 ml cyclohexane and 5.4 grams (0.05 moles) of 1,2-propanedithiol. 7.6 grams (0.05 moles) of citral is then added to the reaction mass over a period of 30 minutes. After the addition of the citral, the reaction mass is heated to reflux and refluxed for a period of 10 hours while removing water of reaction. After the 10 hour reflux period, the reaction mass is cooled and transferred to a separatory funnel. The reaction mass is then washed with one 50 ml portion of saturated sodium chloride solution followed by drying over anhydrous sodium sulfate and filtration. The resulting filtrate is distilled on a Microvigreux column yielding the following fractions:

reactant | para-toluenesulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-propanedithiol | 0.05 moles, 5.4 grams | C(C(C)S)S | C3H8S2
reactant | citral | 0.05 moles, 7.6 grams | CC(C)=CCCC(C)=CC=O | C10H16O
solvent | cyclohexane | 5.0 ml | C1CCCCC1 | C6H12
product | 2-(2,6-DIMETHYL-1,5-HEPTADIENYL)-4-METHYL-1,3-DITHIOLANE | CC(=CC1SCC(S1)C)CCC=C(C)C | C13H22S2
